US07115596B2
5-{[Tert-butyl(diphenyl)silyl]oxy}pentanethioamide
Lawesson's reagent (8.19 g, 20.25 mmol) was heated to reflux in benzene (100 mL) for 1 hr. Cool to just below reflux temperature, and add a solution of 5-{[tert-butyl(diphenyl)silyl]oxy}pentanamide (7.20 g, 20.25 mmol in 50 mL benzene). Stir at room temperature for 2 hrs. Concentrate in vacuo to a chunky oil and purified via silica gel chromatography (eluent: 9:1 Hexane:Ethyl Acetate) to give the product as a yellow-green oil. Yield: 6.50 g (62%) 1H NMR (DMSO-d6) δ7.65–7.60 (m, 4H), 7.49–7.41 (m, 6H), 3.68–3.63 (t, 2H), 2.50–2.44 (t, 2H), 1.80–1.70 (m, 2H), 1.60–1.51 (m, 2H), 1.00 (s, 9H).

reactant | Lawesson's reagent | 20.25 mmol, 8.19 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 5-{[tert-butyl(diphenyl)silyl]oxy}pentanamide | 20.25 mmol, 50 mL, 7.20 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCC(=O)N | C21H29NO2Si
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 5-{[Tert-butyl(diphenyl)silyl]oxy}pentanethioamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCC(N)=S | C21H29NOSSi
